US04380468
2,6-Diethylphenylisonitrile
The procedure of Example 1 was again followed, using 75 g (0.5 mole) of 2,6-diethylaniline, 60 ml of chloroform, 100 ml of methylene chloride, 200 ml of 50% aqueous sodium hydroxide, and 700 mg of benzyltriethylammonium chloride. The product was an oil weighing 36 g, with structure confirmed by mass spectroscopy.

reactant | 2,6-diethylaniline | 0.5 mole, 75 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 700 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Diethylphenylisonitrile | C(C)C1=C(C(=CC=C1)CC)[N+]#[C-] | C11H13N
